US04639365
Step 2: Synthesis of di(p-toluenesulfonyl)ethylene glycol
Twenty-eight ml of ethylene glycol and 100 ml of pyridine were added over a 2.5 hour period to a stirred mixture of tosyl chloride (210 g) in pyridine (225 ml), with the mixture being cooled by a water bath. After stirring for several hours, the mixture was shaken with one liter of ice water for about ten minutes and then filtered. The residue was washed with ether, dilute sulfuric acid, water, and finally ether. (Each of the washed liquids was ice cold.) The residue was then dried by vacuum pumping and recrystallized from boiling acetonitrile. The recrystallized residue, yield 75%, had a melting point of 123° to 125° C.

reactant | ethylene glycol | Twenty-eight ml | C(CO)O | C2H6O2
reactant | tosyl chloride | 210 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 225 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | di(p-toluenesulfonyl)ethylene glycol | yield 75% | C1(=CC=C(C=C1)S(=O)(=O)C(C(S(=O)(=O)C1=CC=C(C=C1)C)O)O)C | C16H18O6S2
